US06727264B1
2-(ETHYLSULFANYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)NICOTINAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 2-(ethylsulfanyl)nicotinoyl chloride: ESMS m/e: 545.3 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 2-(ethylsulfanyl)nicotinoyl chloride | C(C)SC1=C(C(=O)Cl)C=CC=N1 | C8H8ClNOS
product | 2-(ETHYLSULFANYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)NICOTINAMIDE | C(C)SC1=C(C(=O)N[C@@H](CCN2CCC(CC2)C2=CC(=CC=C2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC=N1 | C32H40N4O2S
